US08067426B2
Intermediate 51: 8-Bromo-2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
N-Bromosuccinimide (604 mg, 3.39 mmol) was added to a solution of 2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (888 mg, 3.20 mmol) in chloroform (30 ml) at 0-5° C. under nitrogen. The mixture was stirred at 0-5° C. for 1 hour during which time it became reddish brown in colour and it was then warmed to room temperature and stirred for a further 4 hours. LCMS indicated the reaction to be incomplete and more N-bromosuccinimide (114 mg, 0.641 mmol) was added and the reaction mixture stirred at room temperature overnight. The reaction mixture was then diluted with chloroform (30 ml), washed with water (2×20 ml) and the layers were separated using a hydrophobic frit and the organic layer was evaporated to give a red solid (1.16 g). This material was dissolved in dichloromethane and purified by silica gel chromatography on an SPE cartridge (50 g) using a 0-100% ethyl acetate in cyclohexane gradient as eluent. The appropriate fractions were combined and evaporated to give the title compound as a pale yellow solid 712 mg.

reactant | N-Bromosuccinimide | 3.39 mmol, 604 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 3.20 mmol, 888 mg | CC(C)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C13H19N5O2
reactant | N-bromosuccinimide | 0.641 mmol, 114 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.16 g | BrC=1N(C2=NC(=NC(=C2N1)N)OC(C)C)C1OCCCC1 | C13H18BrN5O2
